US07399759B2
2-{6-[2-(1H-1,2,3,4-tetrazol-5-yl)ethyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one
3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionitrile (0.25 g, 0.85 mmol) and trimethylsilylazide (0.20 g, 1.7 mol) were dissolved in toluene (5 ml), and dibutyltin (IV) oxide (0.02 g, 0.08 mmol) was added thereto. The reaction mixture was refluxed for 48 hrs and kept at room temperature. The precipitated crystals were collected by filtration, washed with toluene and recrystallized from ethanol to give the titled compound (0.20 g, 68%) as white crystals.

reactant | 3-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propionitrile | 0.85 mmol, 0.25 g | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCC#N | C16H11N3OS
reactant | trimethylsilylazide | 1.7 mol, 0.20 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin (IV) oxide | 0.08 mmol, 0.02 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{6-[2-(1H-1,2,3,4-tetrazol-5-yl)ethyl]-2-pyridyl}-4H-1,3-benzothiazine-4-one | 0.20 g, 68% | N1N=NN=C1CCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H12N6OS
